US07109339B2
o-Tolylphenylhydrazine hydrogen chloride (25 g, 158.6 mmol) and 4-piperidone monohydrate hydrogen chloride (24.4 g, 158.6 mmol) were suspended in EtOH (310 mL). Concentrated aqueous HCl (26 g, 317 mmol) was then added. The mixture was refluxed for 3 h, and then the reaction was cooled to rt. The ppt was filtered and washed with cold EtOH. The white solid was air-dried for 18 h. 6-methyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole hydrochloride (36.6 g, 141.2 mmol, 89%) was isolated and a white powder. 1H NMR (CD3OD, 300 MHz) δ 7.22–7.25 (1H, m), 6.89–6.96 (2H, m), 4.40 (2H, m), 3.60 (2H, t, 6.2 Hz), 3.16 (2H, t, 6.2 Hz), 2.45 (3H, s) ppm.

reactant | o-Tolylphenylhydrazine hydrogen chloride | 158.6 mmol, 25 g | Cl.C1(=C(C=CC=C1)C1=C(C=CC=C1)NN)C
reactant | 4-piperidone monohydrate hydrogen chloride | 158.6 mmol, 24.4 g | Cl.O.N1CCC(CC1)=O
reactant | HCl | 317 mmol, 26 g | Cl | ClH
solvent | EtOH | 310 mL | CCO | C2H6O
product | 6-methyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole hydrochloride | 141.2 mmol, 36.6 g, 89% | Cl.CC1=CC=CC=2C3=C(NC12)CCNC3 | InChI=1S/C12H14N2.ClH/c1-8-3-2-4-9-10-7-13-6-5-11(10)14-12(8)9;/h2-4,13-14H,5-7H2,1H3;1H
